US05312964
methyl (1R,cis) 2,2-dimethyl-3-[(Z) 2-carboxyethenyl] -cyclopropane 1-carboxylate.
1 ml of a 1N solution of potassium carbonate was placed under an inert gas atmosphere and then a solution of 0.342 g of methyl (1R,cis) 2,2-dimethyl-3-(1,3-dibromo-2-oxopropyl)-cyclopropane-1-carboxylate in 1.5 ml of tetrahydrofuran was added at about +5° C. The mixture was stirred for 90 minutes and then the temperature was allowed to rise to 20° C. and stirring was continued for 4 hours. Water was added and extraction was carried out with methylene chloride. The organic phase was dried and the solvent was evaporated. The residue was chromatographed on silica, eluting with a methylene chloride - ethanol mixture (97-3) to obtain 0.046 g of the expected product.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (1R,cis) 2,2-dimethyl-3-(1,3-dibromo-2-oxopropyl)-cyclopropane-1-carboxylate | 0.342 g | CC1([C@@H]([C@@H]1C(C(CBr)=O)Br)C(=O)OC)C | C10H14Br2O3
reactant | Water | O | H2O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | methyl (1R,cis) 2,2-dimethyl-3-[(Z) 2-carboxyethenyl] -cyclopropane 1-carboxylate | 0.046 g | CC1([C@@H]([C@@H]1\C=C/C(=O)O)C(=O)OC)C | C10H14O4
